US04985583
62.5 ml (0.1 mole) of a 1.6M solution of n-butyl-lithium in hexane and 33.1 g (0.1 mole) of 4-(4-cyanocyclohexyl)-4'-pentylbiphenyl (obtainable by Grignard reaction of 4-bromo-4'-pentyl-biphenyl with 4-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)-cyclohexanone (J. Org. Chem. 39 (18), 2787-93 (1974)), detachment of water and simultaneous removal of the oxazolyl protective group by boiling with ethanolic H2SO4, hydrogenation of the double bond and subsequent conversion of the ester into the nitrile) in 40 ml of THF are successively added dropwise to 10.1 g (0.1 mole) of diisopropylamine in 70 ml of THF at -10°, with exclusion of moisture and under a nitrogen atmosphere. The reaction mixture is then stirred for 20 minutes. 13.5 g (0.11 mole) of 1-bromopropane are then added, also at -10°, and the mixture is subsequently stirred at room temperature for a further 20 minutes. After customary working up, 4-(4-cyano-4-propylcyclohexyl)-4'-pentylbiphenyl is obtained.

reactant | n-butyl-lithium | C(CCC)[Li]
reactant | 4-(4-cyanocyclohexyl)-4'-pentylbiphenyl | 0.1 mole, 33.1 g | C(#N)C1CCC(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)CCCCC | C24H29N
reactant | 4-bromo-4'-pentyl-biphenyl | BrC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCC | C17H19Br
reactant | diisopropylamine | 0.1 mole, 10.1 g | C(C)(C)NC(C)C | C6H15N
reactant | 1-bromopropane | 0.11 mole, 13.5 g | BrCCC | C3H7Br
solvent | hexane | CCCCCC | C6H14
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 4-(4-cyano-4-propylcyclohexyl)-4'-pentylbiphenyl | C(#N)C1(CCC(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)CCCCC)CCC | C27H35N
